US07432378B2
4-[3-(5-tert-Butyl-1H-benzoimidazol-2-yl)-phenoxy]-1-(4-methyl-piperazin-1-yl)-butan-1-one
3-[4-(4-Methyl-piperazin-1-yl)-4-oxo-butoxy]-benzaldehyde. To a solution of 4-(3-formyl-phenoxy)-butyric acid (981 mg, 4.72 mmol, 1.0 equiv) and N-methylpiperazine (576 mg, 5.19 mmol, 1.1 equiv) in dichloromethane at 0° C. was added 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide (EDCI; 1.18 g, 6.14 mmol, 1.3 equiv) and 1-hydroxybenzotriazole hydrate (HOBT; 701 mg, 5.19 mmol, 1.1 equiv). The reaction mixture, which was allowed to warm to rt, was stirred for 2.0 h and then poured into water. This mixture was extracted three times with ethyl acetate. The combined extracts were dried (Na2SO4), filtered, and concentrated under reduced pressure. The crude residue was purified by column chromatography (silica gel, 5% MeOH in dichloromethane) to afford 847 mg (62%) of the desired product. 1H NMR (400 MHz, CD3OD): 9.72 (s, 1H), 7.29-7.23 (m, 2H), 7.22-7.19 (m, 1H), 7.05-6.98 (m, 1H), 3.87 (t, J=6.1 Hz, 2H), 3.43-3.31 (m, 4H), 2.39 (t, J=7.2 Hz, 2H), 2.27-2.17 (m, 4H), 2.08 (s, 3H), 1.92-1.80 (m, 2H).

reactant | 3-[4-(4-Methyl-piperazin-1-yl)-4-oxo-butoxy]-benzaldehyde | CN1CCN(CC1)C(CCCOC=1C=C(C=O)C=CC1)=O | C16H22N2O3
reactant | 4-(3-formyl-phenoxy)-butyric acid | 4.72 mmol, 981 mg, 1.0 equiv | C(=O)C=1C=C(OCCCC(=O)O)C=CC1 | C11H12O4
reactant | N-methylpiperazine | 5.19 mmol, 576 mg, 1.1 equiv | CN1CCNCC1 | C5H12N2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide | 6.14 mmol, 1.18 g, 1.3 equiv | CN(CCCN=C=NCC)C | C8H17N3
reactant | 1-hydroxybenzotriazole hydrate | 5.19 mmol, 701 mg, 1.1 equiv | O.ON1N=NC2=C1C=CC=C2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 4-[3-(5-tert-Butyl-1H-benzoimidazol-2-yl)-phenoxy]-1-(4-methyl-piperazin-1-yl)-butan-1-one | 847 mg, 62% | C(C)(C)(C)C1=CC2=C(NC(=N2)C=2C=C(OCCCC(=O)N3CCN(CC3)C)C=CC2)C=C1 | C26H34N4O2
